Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx of distant gastric bypass with multiple 
complications, chronic abdominal pain, substance abuse on 
methadone, and pulmonary embolism currently on lovenox who was 
recently admitted with persistent odynophagia, abdominal pain 
and nausea, found to have recurrent esophagitis, now presents 
with 5 days of n/v/abdominal pain. Her last BM was 4 days ago. 
She reports sharp mid abdominal pain. States that this feels 
like her prior SBOs, though on the floor she states this is 
different from previous episodes in that that pain is more 
localized. Pain is worse on the L. There is some concern that 
she may have taken extra doxapin and seroquel. EKG with normal 
intervals.  
In the ED intial vitals were: ___ pain 98.9 84 143/83 18 100%. 
NGT placed with 20cc yellow output. CT abd/pelvis done that 
showed no obstruction, reviewed with Bariatric surgery. Received 
4mg dilaudid IV total, zofran, reglan. Vitals prior to transfer 
were: 98.1 81 132/86 16 97% RA.  
On the floor, she continues to complain of pain but laying in 
bed comfortably. NGT in place, asking for more pain medication 
and NGT to suction.  

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
-Mother with diabetes
 
Physical Exam:
ADMISSION PHYSICAL:
Vitals - T: 98.8 BP: 144/90 HR: 76 RR: 14 02 sat: 100%RA  
GENERAL: mildly uncomfortable appearing, appears stated age  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, nontender supple neck, no LAD, no JVD, NGT in 
place draining yellow/green fluid  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender to palpation in all quadrants 
L>R, voluntary guarding, unable to assess for rebound or 
hepatosplenomegaly due to patient discomfort  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ ___ pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
.
DISCHARGE PHYSICAL:
Vitals- T 98.6   ___   18  100% RA
General- alert, sitting in bed, eating breakfast, NAD 
HEENT- Sclera anicteric, MMM. 
Neck- supple
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen- Soft. Non-tender, non-distended. Nl BS, no rebound or 
guarding
GU- no foley
Ext- wwp with no edema
Neuro- answers all questions appropriately
 
Pertinent Results:
ADMISSION LABS:
___ 01:55PM BLOOD WBC-4.3 RBC-3.95* Hgb-11.9* Hct-37.6 
MCV-95 MCH-30.1 MCHC-31.7 RDW-15.6* Plt ___
___ 01:55PM BLOOD Neuts-76.0* ___ Monos-2.4 Eos-0.7 
Baso-0.5
___ 01:55PM BLOOD Glucose-91 UreaN-14 Creat-0.7 Na-141 
K-4.5 Cl-105 HCO3-25 AnGap-16
___ 01:55PM BLOOD ALT-12 AST-21 AlkPhos-113* TotBili-0.4
___ 01:55PM BLOOD Albumin-3.9 Calcium-9.3 Phos-3.7 Mg-1.9
___ 03:03PM BLOOD Lactate-2.3*
___ 12:04PM BLOOD Lactate-1.5
___ 12:04PM BLOOD ___ pO2-78* pCO2-47* pH-7.38 
calTCO2-29 Base XS-1 Comment-GREEN TOP
.
MICRO:
BLOOD CX ___ x 3: NEGATIVE
.
___ 7:30 pm URINE
**FINAL REPORT ___
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
.
DISCHARGE LABS:
___ 03:30PM BLOOD WBC-4.6 RBC-3.91* Hgb-11.8* Hct-38.9 
MCV-100* MCH-30.3 MCHC-30.4* RDW-15.8* Plt ___
___ 03:30PM BLOOD ___ PTT-38.4* ___
___ 03:30PM BLOOD Glucose-154* UreaN-16 Creat-0.8 Na-142 
K-3.8 Cl-108 HCO3-26 AnGap-12
___ 03:30PM BLOOD Calcium-9.0 Phos-3.8 Mg-1.9
.
IMAGING:  
___ CXR: FINDINGS: Single portable view of the chest. The 
lungs are clear of focal consolidation or effusion. The 
cardiomediastinal silhouette is within normal limits. 
Nasogastric tube seen passing into the gastric body with side 
port past the GE junction. No free intraperitoneal air 
identified. IMPRESSION: NG tube in appropriate position  
.
___ Abd film: IMPRESSION: Large amount of stool within the 
colon. No evidence of small bowel obstruction or free 
intraperitoneal air. Status post reversal of gastric bypass with 
enteric tube tip likely within the duodenum.  
.
___ CT abd/pelvis: 
FINDINGS:  The bases of the lungs demonstrate ___ 
opacities 
bilaterally which indicates small airways infection or 
aspiration.  
Tiny hypodensity in the right lobe of the liver is overall 
stable compared to the prior exam and may represent a simple 
hepatic cyst (2;26).  Otherwise, the liver demonstrates no 
concerning focal lesions.  There is again mild intrahepatic 
biliary ductal dilatation similar to the prior exam.  The 
patient is status post cholecystectomy with stable mild 
dilatation of the CBD measuring 0.8 cm.  The portal vein appears 
to be patent.  The spleen is homogenous and normal in size.  The 
pancreas is normal without evidence of focal lesions or 
peripancreatic stranding.  There is no pancreatic duct 
dilatation.  The adrenal glands bilaterally are normal.  Kidneys 
are normal without evidence of focal solid or cystic lesions.  
There appears to be symmetric excretion of contrast.  There is 
no retroperitoneal or mesenteric lymphadenopathy.  No 
intra-abdominal free air or free fluid is identified.   
The patient is status post gastric bypass surgery with reversal, 
with probable removal of the intervening jejunal limb. There is 
appropriate passage of contrast to the distal small bowel and 
colon.  There is an eneteric tube which appears to terminate 
within the duodenum.  The jejunojejunal anastomosis appears to 
be overall patent and stable in configuration compared to 
multiple prior studies.  There is no retroperitoneal or 
mesenteric lymphadenopathy. 
CT PELVIS:  The urinary bladder is normal.  The uterus appears 
to be 
unremarkable.  There is no significant pelvic free fluid.  There 
is no pelvic wall or inguinal lymphadenopathy. Soft tissue 
densities along the lower anterior abdominal wall are sequelae 
of subcutaneous injections. 
OSSEOUS STRUCTURES:  No lytic or blastic lesions concerning for 
malignancy are identified.   
IMPRESSION:  
1.  No evidence of bowel obstruction with oral contrast passing 
into the 
ascending colon. 
2.  Stable mild dilatation of the CBD compared to the prior MRCP 
from ___ and again may be related to sphincter of 
Oddi dysfunction. 
3.  ___ opacities at the bases of the lungs bilaterally 
is likely 
secondary to small airways infection or aspiration. 
.
CT HEAD ___:
There is no evidence of hemorrhage, edema, mass, mass effect, or 
large
territorial infarction. The ventricles and sulci are normal in 
size and
configuration. The basal cisterns appear patent and there is 
preservation of gray-white matter differentiation. 
No fracture is identified.  The visualized paranasal sinuses, 
mastoid air
cells, and middle ear cavities are clear.  
IMPRESSION:   No intracranial hemorrhage or mass effect.  
NOTE ADDED IN ATTENDING REVIEW: Incidentally noted is a 
"partially empty"
sella turcica (602b:41), not significantly changed, a common 
variant.
 

 
Brief Hospital Course:
___ year old female with multiple medical problems including 
distant gastric bypass with multiple complications and 
subsequent surgeries, subsequent reversal of bypass (removal of 
intervening jejunal limb), chronic abdominal pain on methadone, 
h/o substance abuse, and pulmonary embolism currently on 
coumadin who presents with abdominal pain, nausea and vomiting 
with course c/b two episodes of lethargy, slurred speech and 
pinpoint pupils.
.
# Abdominal pain, nausea, vomiting: Presentation initially 
concerning for partial SBO although abdominal xray and CT did 
not support this diagnosis. A U/A was negative. She was made 
NPO, including meds; an NGT was placed overnight (___), 
drained bilious material and was subsequently removed ___ per 
pt request. Pt evaluated by bariatric surgery who did not see 
any indication for surgery. Had EGD and EUS ___ (prior to 
admission) that showed mild esophagitis, small remnant stomach 
with  gastrojejunal anastamosis, erythema in the stomach, 
dilated pancreatic duct, normal pancreas/pancreatic vasculature. 
 Also had MRCP in ___ with recommended repeat MRCP in ___ 
mos. Most likely etiology of abdominal pain/nausea/vomiting is 
constipation, which may have been precipitated by methadone 
abuse in outpatient setting. Of note, PCP conveyed concern about 
possible methadone abuse.  Ddx includes referred pain from known 
esophagitis vs marginal ulcer at gastrojejunal anastamosis vs 
malingering. Given reassuring exam, labs and imaging, we managed 
medically with pantoprazole BID, standing tylenol and home 
methadone 7.5mg PO TID for pain, and an aggressive bowel regimen 
(senna, colace, miralax, bisacodyl, enema). She was given zofran 
and compazine for nausea with good relief. She was intially made 
NPO, transitioned to clears on ___, and to regular diet on 
___. EKG ___ showed QTc 448 (methadone, zofran can prolong 
QT). EKG ___ with QTc 426. She was weaned to methadone 5mg 
TID and discharged on this dose.  
.
# lethargy, pinpoint pupils, slurred speech: First episode 
occurred on ___ of ___. When due for ___ medications, she was 
found to be AOx1, not compliant with neuro exam, mumbling, with 
eyes closed, reported she was unable to move or sit up. 
Awoke/sat up immediately after use of narcan was discussed w/ 
nursing at bedside, reported she did not want narcan and had not 
taken any extra meds. Neuro exam was then normal. Room search 
initiated w/no meds found.  Her AM gabapentin, seroquel and 
clonazepam were held. The following AM, she was lethargic, 
slurring her words, unable to fully open eyes, pinpoint pupils.  
Told her we were going to give narcan.  By the time we returned 
to the room 10 minutes later, she was awake, angry about mention 
of narcan, pupils 2mm and reactive.  Concerning for neurologic 
abnormality vs seizure vs pseudoseizure vs taking medications we 
are not administering. CT head was negative for acute 
abnormalities.  Compazine was discontinued as this was the only 
new medication we had started.  Methadone was decreased from 
home dose of 7.5 mg TID to 5mg TID. She was monitored on 
telemetry for > 24 hrs with no other episodes.
. 
# Moderate malnutrition with Vitamin B12/Copper deficiency: 
Previously followed by nutrition. Albumin 3.8 on ___.  
Restarted home copper gluconate, Vitamin D, Thiamine, 
Cyanocobalamin, Multivitamins W/minerals once she was tolerating 
PO. Nutrition was consulted and recommended continuation of 
regular diet with addition of multivitamin and carnation drink 
TID. 
. 
# Hx of DVT with PE in ___ in setting of recent 
hospitalization and immobilization: Pt reports taking coumadin 
4mg ___ and 5mg all other days, although her INR was 1.0 on 
admission. Followed by Dr. ___ home health aide that 
checks her INR). Continued home coumadin with lovenox bridge 
with INR 1.0 at time of discharge. It is possible that her GI 
absorption is too poor to achieve a therapeutic INR.
.
# Depression/anxiety: Restarted home buproprion, clonazepam, 
doxepin, mirtazapine, seroquel once tolerating PO.
.
## Transitional issues:
- pt with h/o DVT and PE in ___ in setting of recent 
hospitalization and immobilization, reportedly on coumadin but 
with INR of 1.0 on admission. It is possible that her GI 
absorption is too poor to achieve a therapeutic INR. She is 
discharged on a lovenox bridge and her home coumadin dose. An 
INR should be checked on ___, with anti-coagulation to be 
managed by Dr. ___.
- Concern for QT prolongation given methadone and zofran use. 
Her QTc was 426 on ___ and should be rechecked at her next PCP 
___.
- Patient was continued on home methadone 7.5mg TID for pain 
while inpatient. On ___ of ___ she was found to be AOx1, not 
compliant with neuro exam, mumbling, with eyes closed, reported 
she was unable to move or sit up. Awoke/sat up immediately after 
use of narcan was discussed w/ nursing at bedside, reported she 
did not want narcan and had not taken any extra meds. Neuro exam 
was then normal. Room search initiated w/ no meds found. Similar 
occurrence on AM of ___ with pinpoint pupils, slurring of 
words, inability to cooperate with neuro exam. Again resolved 
within minutes after discussion of narcan. CT head unremarkable. 
Held home gabapentin, seroquel, clonazepam on ___ AM and 
decreased methadone to 5mg TID. Discontinued compazine on ___ 
as this was the only new medication started during admission. 
Resumed all home medications ___ of ___. Defer outpatient 
methadone dosing to Dr. ___.
- Code: DNR/DNI (confirmed) 
- Emergency Contact: ___ (daughter and HCP): 
___
- ___ cessation.

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. Cholestyramine 2 gm PO BID 
3. ClonazePAM 1 mg PO TID 
4. copper gluconate 2 mg oral daily 
5. Doxepin HCl 75 mg PO HS 
6. Furosemide 40 mg PO DAILY 
7. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 
8. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
9. Methadone 7.5 mg PO TID 
10. Mirtazapine 22.5 mg PO HS 
11. QUEtiapine Fumarate 100 mg PO QAM 
12. QUEtiapine Fumarate 300 mg PO QHS 
13. Vitamin D 1000 UNIT PO DAILY 
14. Omeprazole 40 mg PO BID 
15. Multivitamins W/minerals 1 TAB PO DAILY 
16. Thiamine 100 mg PO DAILY 
17. Ondansetron 4 mg PO Q8H:PRN nausea 
18. Gabapentin 600 mg PO Q8H 
19. Cyanocobalamin 1000 mcg PO DAILY 
20. Warfarin 5 mg PO 5X/WEEK (___) 
21. Warfarin 4 mg PO 2X/WEEK (MO,FR) 

 
Discharge Medications:
1. Outpatient Lab Work
INR; Dx: history of pulmonary embolism V12.55
Please fax results to: ___ 
___ 
Phone: ___ 
Fax: ___ 

2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Cholestyramine 2 gm PO BID 
4. ClonazePAM 1 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Doxepin HCl 75 mg PO HS 
7. Gabapentin 600 mg PO Q8H 
8. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 
9. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
10. Mirtazapine 22.5 mg PO HS 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. QUEtiapine Fumarate 100 mg PO QAM 
13. QUEtiapine Fumarate 300 mg PO QHS 
14. Warfarin 5 mg PO 5X/WEEK (___) 
15. Warfarin 4 mg PO 2X/WEEK (MO,FR) 
16. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0
17. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
18. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 0.7 ml SC every 12 hours Disp #*30 
Syringe Refills:*0
19. Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 packet by mouth 
daily Disp #*30 Packet Refills:*0
20. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
21. copper gluconate 2 mg oral daily 
22. Omeprazole 40 mg PO BID 
23. Ondansetron 4 mg PO Q8H:PRN nausea 
24. Thiamine 100 mg PO DAILY 
25. Vitamin D 1000 UNIT PO DAILY 
26. Furosemide 40 mg PO DAILY 
27. Bisacodyl ___AILY:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally at night Disp #*10 
Suppository Refills:*0
28. Fleet Enema ___AILY:PRN constipation 
RX *sodium phosphates [Enema] 19 gram-7 gram/118 mL 1 enema(s) 
rectally daily Disp #*10 Each Refills:*0
29. Bisacodyl 10 mg PO BID:PRN constipation 
RX *bisacodyl [Laxative] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
30. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour Apply one patch to arm daily Disp #*7 
Each Refills:*0
31. Methadone 5 mg PO TID 
RX *methadone 5 mg 1 tablet by mouth every 8 hours Disp #*15 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: abdominal pain, nausea, vomiting, constipation
Secondary: esophagitis, depression, anxiety, malnutrition with 
vitamin B12 and copper deficiencies, history of DVT with PE on 
coumadin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___.  You were 
admitted for nausea, vomiting and abdominal pain.  This was 
initially concerning for a possible small bowel obstruction, but 
an abdominal xray and abdominal cat scan did not show any 
evidence of obstruction.  Bariatric surgery evaluated you and 
recommended medical management. The most likely cause of your 
nausea, vomiting and abdominal pain is severe constipation.  
Your symptoms improved with anti-nausea medications and an 
aggressive bowel regimen.  As we discussed, methadone and other 
opiate medications (such as dilaudid, morphine, oxycodone) 
frequently cause constipation.  We encourage you to work with 
Dr. ___ to decrease the amount of methadone you take at 
home. We have prescibed several medications to help with your 
constipation.  We recommend that you use senna, colace and 
miralax daily.  The bisacodyl (by mouth and/or per rectum) and 
the fleet enema should be used only if you become constipated. 
You were noted to be very confused and slurring on ___ night 
and ___ morning. We held your medications briefly and 
decreased your methadone given our concern that your medications 
were interacting. You did not have further episodes of 
confusion.
Your INR (a measure of your coumadin activity) was also very low 
when you arrived, suggesting that there was no protective effect 
of coumadin in your body.  We started you on lovenox to help 
prevent blood clots while the coumadin level builds back up.  
You should continue to take both lovenox and coumadin at home 
and have your INR checked on ___.  Once your INR is 
at a protective level, you can stop taking the lovenox.  This 
will be coordinated by your PCP, ___. 
Please follow up at the appointment listed below.
 
Followup Instructions:
___